US06083947
1. Preparation of 5-chloro-3-ethyl-2-aminobenzenesulfonamide (D)
To a solution of 3-ethyl-2-aminobenzenesulfonamide (0.5043 g, 2.52 mmol) in 10 mL acetonitrile was added N-chlorosuccinimide (0.3163 g, 2.37 mmol). The mixture was stirred at reflux for 1 2.5 h, cooled, filtered, and concentrated in vacuo. Reaction was incomplete by 1H NMR; the purple solids were redissolved in acetonitrile and additional NCS (0.1019 g, 0.76 mmol) was added. The mixture was refluxed for 1 5 minutes and worked up as before. Column chromatography on the mixture of succinimide and D (40% ethyl acetate:hexanes) gave pure D (0.5224 g, 94%), m.p. 134-135° C. 1H NMR (300 MHz, DMSO): δ7.45 (3H, s), 7.19 (1H, d, J=2.1 Hz), 5.76 (2H, s), 2.53 (2H, q, J=7.3 Hz), 1.14 (3H, i, J=7.3 HZ). 13C NMR (300 MHz, DMSO): δ141.9, 131.8, 131.2, 125.4, 124.8, 118.1, 23.4, 12.7. FT-IR (KBr): 3457.8, 3427.9, 3358.4, 3268.9, 3080.1, 2970.8, 2364.5, 2334.7, 1630.6. 1556.1, 1541.2. 1451.7. 1312.6. 1188.3, 1148.6, 905.1, 875.3, 762.2, 611.3 cm-1. HRMS: M+ calculated=234.0230, found=234.0227.

reactant | 3-ethyl-2-aminobenzenesulfonamide | 2.52 mmol, 0.5043 g | C(C)C=1C(=C(C=CC1)S(=O)(=O)N)N | C8H12N2O2S
reactant | N-chlorosuccinimide | 2.37 mmol, 0.3163 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NCS | 0.76 mmol, 0.1019 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
reactant | KBr | [K+].[Br-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-3-ethyl-2-aminobenzenesulfonamide | ClC=1C=C(C(=C(C1)S(=O)(=O)N)N)CC | C8H11ClN2O2S
